US07754742B2
1-[4-(4-Aminomethyl-benzyloxy)-2-hydroxy-3-trifluoromethyl-phenyl]-2-methyl-propan-1-one hydrochloride
Mechanically stir solutions of 1-(2,4-dihydroxy-3-trifluoromethyl-phenyl)-2-methyl-propan-1-one (211 g, 850.1 mmol), (4-hydroxymethyl-benzyl)-carbamic acid tert-butyl ester (195 g, 821.8 mmol), and triphenylphosphine (212 g; 808.3 mmol) in toluene (9 L) in two separate 22-L Morton flasks. Treat solutions with diisopropyl azodicarboxylate (183 mL, 923 mmol) over a 60 min period, then stir over the weekend at room temperature. Combine the solutions and evaporate to a brown oil. Dissolve the oil in 1,4-dioxane (8 L), treat with 4N hydrogen chloride solution in 1,4-dioxane (3 L, 12 mole), and heat to 92° C. for 6 hrs (out-gassing and precipitation is observed at 52° C. during the warm up period). Cool to room temperature, filter the resulting solid and wash with dioxane, 30% dioxane in hexanes, and hexanes to provide the title compound (510 g, 78% yield) as a tan solid. HPLC Rt=4.71 min; 1H NMR (DMSO-d6) δ 14.00 (s, 1H), 8.4 (bs, 3H), 7.50 (ABq, J=12.0, 8.0 Hz, 4H), 6.92 (d, J=8.0 Hz, 1H), 5.37 (s, 2H), 4.0 (m, 2H), 3.73 (hept, J=4.0 Hz, 1H), 1.12 (d, J=4.0 Hz, 6H); 19F NMR (DMSO-d6) δ-54.10; MS (m/z): 368.0 (M+1).

reactant | 1-(2,4-dihydroxy-3-trifluoromethyl-phenyl)-2-methyl-propan-1-one | 850.1 mmol, 211 g | OC1=C(C=CC(=C1C(F)(F)F)O)C(C(C)C)=O | C11H11F3O3
reactant | (4-hydroxymethyl-benzyl)-carbamic acid tert-butyl ester | 821.8 mmol, 195 g | C(C)(C)(C)OC(NCC1=CC=C(C=C1)CO)=O | C13H19NO3
reactant | triphenylphosphine | 808.3 mmol, 212 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 923 mmol, 183 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | hydrogen chloride | 4N | Cl | ClH
reactant | 1,4-dioxane | 12 mole, 3 L | O1CCOCC1 | C4H8O2
solvent | toluene | 9 L | C1(=CC=CC=C1)C | C7H8
product | 1-[4-(4-Aminomethyl-benzyloxy)-2-hydroxy-3-trifluoromethyl-phenyl]-2-methyl-propan-1-one hydrochloride | 510 g, 78% yield | Cl.NCC1=CC=C(COC2=C(C(=C(C=C2)C(C(C)C)=O)O)C(F)(F)F)C=C1 | InChI=1S/C19H20F3NO3.ClH/c1-11(2)17(24)14-7-8-15(16(18(14)25)19(20,21)22)26-10-13-5-3-12(9-23)4-6-13;/h3-8,11,25H,9-10,23H2,1-2H3;1H
